US07855225B2
To a solution of 1.01 g of methyl 5-(trifluoromethyl)-1H-indole-3-carboxylate in 12 mL of MeOH and 12 mL of THF, 6 mL of 1 M aqueous sodium hydroxide solution was added, and the resulting mixture was stirred at 80° C. overnight. To the solution, 3 mL of 1 M aqueous sodium hydroxide solution was further added, and the resulting mixture was stirred at 80° C. for 6 hours. To the solution, 9 mL of 1 M hydrochloric acid and 60 mL of water were added, the precipitated solid was collected by filtration, and the solid obtained was purified by silica gel column chromatography (chloroform-methanol=100:1 →150:1→20:1) and then washed with hexane to obtain 0.71 g of 5-(trifluoromethyl)-1H-indole-3-carboxylic acid as a cream-colored solid. FAB−: 228

reactant | methyl 5-(trifluoromethyl)-1H-indole-3-carboxylate | 1.01 g | FC(C=1C=C2C(=CNC2=CC1)C(=O)OC)(F)F | C11H8F3NO2
reactant | hydrochloric acid | 1 M, 9 mL | Cl | ClH
reactant | water | 60 mL | O | H2O
solvent | MeOH | 12 mL | CO | CH4O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 1 M, 6 mL | [OH-].[Na+]
solvent | sodium hydroxide | 1 M, 3 mL | [OH-].[Na+]
product | 5-(trifluoromethyl)-1H-indole-3-carboxylic acid | 0.71 g | FC(C=1C=C2C(=CNC2=CC1)C(=O)O)(F)F | C10H6F3NO2
